US05969140
To a solution of 1-[2-{4-(3-pyridyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6-benzyloxy-7-methoxynaphthalene (0.73 g) in dichloromethane (10 ml) are added dropwise acetic anhydride (0.7 ml) and triethylamine (1.3 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. The mixture is diluted with dichloromethane, washed with water, dried, and concentrated under reduced pressure to remove the solvent. The residue is dissolved in acetic acid (50 ml) and thereto is added 10% palladium-carbon (0.1 g), and the mixture is subjected to medium-pressure catalytic hydrogenation at room temperature overnight with using a Parr reduction apparatus. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is dissolved in methanol (10 ml), and thereto is added sodium methoxide (0.2 g) under ice-cooling. The mixture is stirred at room temperature for three hours, and thereto is added diluted hydrochloric acid under ice-cooling. The mixture is concentrated under reduced pressure to remove the solvent. Water is added to the residue, and the mixture is extracted with dichloromethane. The extract is washed, dried, and concentrated under reduced pressure to remove the solvent. The residue is crystallized from ethyl acetate, and thereto is added 4M hydrogen chloride in ethyl acetate to give 1-[2-{4-(3-pyridyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6-hydroxy-7-methoxynaphthalene hydrochloride (0.15 g, yield; 25%), which is listed in Table 12.

reactant | 1-[2-{4-(3-pyridyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6-benzyloxy-7-methoxynaphthalene | 0.73 g | N1=CC(=CC=C1)C1=NN(C(C2=CC=CC=C12)=O)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)CO)CO | C38H30N4O5
reactant | acetic anhydride | 0.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[2-{4-(3-pyridyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6-hydroxy-7-methoxynaphthalene hydrochloride | 0.15 g, yield; 25% | Cl.N1=CC(=CC=C1)C1=NN(C(C2=CC=CC=C12)=O)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)O)CO)CO | InChI=1S/C31H24N4O5.ClH/c1-40-27-14-24-20(12-26(27)38)11-21(16-36)25(17-37)29(24)18-8-10-33-28(13-18)35-31(39)23-7-3-2-6-22(23)30(34-35)19-5-4-9-32-15-19;/h2-15,36-38H,16-17H2,1H3;1H
